US05171871
Synthesis of Complex: Methylenebis(cyclopentadienyl)-titanium-methylalumoxane (tetramer)
In a nitrogen-purged Schlenk reaction vessel, 97.4 mg (0.37 mmol) of dichloromethylenebis(cyclopentadienyl)titanium was weighted out. Thereto 20 ml of dried toluene was added, and the mixture was cooled to -20° C. A solution of 1.4 mmol of methylalumoxane (tetramer) in benzene was added thereto dropwise with stirring over one hour. The reaction solution was gradually brought to room temperature, and then stirred continuously for 2 days. The reaction solution changed gradually its color from violet to reddish brown. Hexane was added thereto, and the formed precipitate was collected by filtration, dried and recrystallized. The yield was 82%.

reactant | dichloromethylenebis(cyclopentadienyl)titanium | 0.37 mmol, 97.4 mg | ClC(Cl)=[Ti](C1C=CC=C1)C1C=CC=C1
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | methylalumoxane | 1.4 mmol | C[Al]1OCCCC1
reactant | Hexane | CCCCCC | C6H14
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Methylenebis(cyclopentadienyl)-titanium methylalumoxane | yield was 82% | C=[Ti](C1C=CC=C1)C1C=CC=C1.C[Al]1OCCCC1 | InChI=1S/2C5H5.C4H8O.CH3.CH2.Al.Ti/c2*1-2-4-5-3-1;1-2-3-4-5;;;;/h2*1-5H;1-4H2;1H3;1H2;;/q;;-1;;;+1;
